US07547782B2
C) 5-Bromo-N-(2,4-difluorophenyl)-2-fluoronicotinamide
To a solution of 5-bromo-2-fluoronicotinic acid (55 mg, 0.25 mmol) in a mixture of 2.0 mL of THF and 5.0 mL of DCM was added (COCl)2 (0.13 mL, 1.5 mmol). The mixture was stirred at room temperature for 1 h and at 40° C. overnight. After cooling, the solvent was removed under reduced pressure. The residue was dissolved in 2.0 mL of DCM and to it were added 2,4-difluoroaniline (0.05 mL, 0.5 mmol) and 0.1 mL of TEA. The mixture was stirred at room temperature for 2 h and diluted with H2O. The organic layer was separated and the aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine and dried over MgSO4. After filtration and concentration in vacuo, the residue was purified on preparative (RP) HPLC to give the desired product (60 mg, 73% yield). MS(ESI+) m/z 331.18, 333.18 (M+H)+.

reactant | 5-bromo-2-fluoronicotinic acid | 0.25 mmol, 55 mg | BrC=1C=NC(=C(C(=O)O)C1)F | C6H3BrFNO2
reactant | (COCl)2 | 1.5 mmol, 0.13 mL | C(=O)(C(=O)Cl)Cl | C2Cl2O2
reactant | 2,4-difluoroaniline | 0.5 mmol, 0.05 mL | FC1=C(N)C=CC(=C1)F | C6H5F2N
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | 5-Bromo-N-(2,4-difluorophenyl)-2-fluoronicotinamide | 60 mg, 73% yield | BrC=1C=NC(=C(C(=O)NC2=C(C=C(C=C2)F)F)C1)F | C12H6BrF3N2O
